US08735579B2
Tert-butyl 4-{4-[5-(5-tert-butyl-3-formyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate
120 mg of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (“Dess-Martin-Periodinane”) are added to an ice-cooled solution of 200 mg of tert-butyl 4-{4-[5-(5-tert-butyl-3-hydroxymethyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate in 6 ml dichloromethane. The cooling bath is removed, and the solution is stirred overnight at ambient temperature. Then the solution is diluted with dichloromethane and washed with aqueous K2CO3 solution and aqueous Na2S2O3 solution. The organic phase is dried (Na2SO4) and the solvent is removed. The residue is chromatographed on silica gel with dichloromethane/methanol (99:1→90:10) as eluant.

reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 120 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4-{4-[5-(5-tert-butyl-3-hydroxymethyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate | 200 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1C=CC(=C(OC2=CC(=NC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)OC)CO | C36H47N3O6
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | Tert-butyl 4-{4-[5-(5-tert-butyl-3-formyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1C=CC(=C(OC2=CC(=NC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)OC)C=O | C36H45N3O6
